US07011838B2
First, 0.01 g of sodium borohydride was added to the solution of 0.30 g of 2-(2-formylethyl)-2-(4-(trifluoromethyl)benzyl)malononitrile (the intermediate (19)) in ethanol at 0° C., followed by stirring for 5 hours at room temperature. Then, water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.19 g of 2-(3-hydroxypropyl)-2-(4-(trifluoromethyl)benzyl)malononitrile (the intermediate (20)).

reactant | sodium borohydride | 0.01 g | [BH4-].[Na+]
reactant | 2-(2-formylethyl)-2-(4-(trifluoromethyl)benzyl)malononitrile | 0.30 g | C(=O)CCC(C#N)(C#N)CC1=CC=C(C=C1)C(F)(F)F | C14H11F3N2O
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-(3-hydroxypropyl)-2-(4-(trifluoromethyl)benzyl)malononitrile | 0.19 g, Yield: 61% | OCCCC(C#N)(C#N)CC1=CC=C(C=C1)C(F)(F)F | C14H13F3N2O
